US04031099
a. 3-Carboethoxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril
Condensation of ethyl 2-amino-5-methyl-cyclohex-1-ene-1-carboxylate (37 g; 0.202 mole) with diethyl malonate (32.4 g; 0.202 mole) at 110° C as described in Example 1 gave the title compound; m.p. (EtOH) 214° -216° C.

reactant | ethyl 2-amino-5-methyl-cyclohex-1-ene-1-carboxylate | 0.202 mole, 37 g | NC1=C(CC(CC1)C)C(=O)OCC | C10H17NO2
reactant | diethyl malonate | 0.202 mole, 32.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 3-Carboethoxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril | C(=O)(OCC)C=1C(NC=2CCC(CC2C1O)C)=O | C13H17NO4
